* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : DFFX1                                        *
* Netlisted  : Sun Jan 10 04:10:45 2021                     *
* PVS Version: 16.15-s010 Fri Jun 28 22:24:07 PDT 2019      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(g45n1svt) _nmos1v ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 1 MN(g45n1hvt) _nmos1v_hvt ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 2 MN(g45n1lvt) _nmos1v_lvt ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 3 MN(g45n1nvt) _nmos_12_native ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 4 MN(g45n2svt) _nmos_25 ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 5 MN(g45n2nvt) _nmos_25_native ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 6 MN(g45ncap1) _nmoscap1v ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 7 MN(g45ncap2) _nmoscap2v ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 8 MP(g45p1svt) _pmos1v pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)
*.DEVTMPLT 9 MP(g45p1hvt) _pmos1v_hvt pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)
*.DEVTMPLT 10 MP(g45p1lvt) _pmos1v_lvt pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)
*.DEVTMPLT 11 MP(g45p2svt) _pmos2v pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)
*.DEVTMPLT 12 MP(g45pcap1) _pmoscap1v pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)
*.DEVTMPLT 13 MP(g45pcap2) _pmoscap2v pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)
*.DEVTMPLT 14 R(g45rm1) _resm1 metal1_conn(PLUS) metal1_conn(MINUS)
*.DEVTMPLT 15 R(g45rm2) _resm2 metal2_conn(PLUS) metal2_conn(MINUS)
*.DEVTMPLT 16 R(g45rm3) _resm3 metal3_conn(PLUS) metal3_conn(MINUS)
*.DEVTMPLT 17 R(g45rm4) _resm4 metal4_conn(PLUS) metal4_conn(MINUS)
*.DEVTMPLT 18 R(g45rm5) _resm5 metal5_conn(PLUS) metal5_conn(MINUS)
*.DEVTMPLT 19 R(g45rm6) _resm6 metal6_conn(PLUS) metal6_conn(MINUS)
*.DEVTMPLT 20 R(g45rm7) _resm7 metal7_conn(PLUS) metal7_conn(MINUS)
*.DEVTMPLT 21 R(g45rm8) _resm8 metal8_conn(PLUS) metal8_conn(MINUS)
*.DEVTMPLT 22 R(g45rm9) _resm9 metal9_conn(PLUS) metal9_conn(MINUS)
*.DEVTMPLT 23 R(g45rm10) _resm10 metal10_conn(PLUS) metal10_conn(MINUS)
*.DEVTMPLT 24 R(g45rm11) _resm11 metal11_conn(PLUS) metal11_conn(MINUS)
*.DEVTMPLT 25 R(g45rsnd) _ressndiff ndiff_conn(PLUS) ndiff_conn(MINUS) psubstrate(B)
*.DEVTMPLT 26 R(g45rnsnd) _resnsndiff ndiff_conn(PLUS) ndiff_conn(MINUS) psubstrate(B)
*.DEVTMPLT 27 R(g45rsnp) _ressnpoly poly_conn(PLUS) poly_conn(MINUS) psubstrate(B)
*.DEVTMPLT 28 R(g45rsnp) _ressnpoly_nw poly_conn(PLUS) poly_conn(MINUS) nwell_conn(B)
*.DEVTMPLT 29 R(g45rnsnp) _resnsnpoly poly_conn(PLUS) poly_conn(MINUS) psubstrate(B)
*.DEVTMPLT 30 R(g45rnsnp) _resnsnpoly_nw poly_conn(PLUS) poly_conn(MINUS) nwell_conn(B)
*.DEVTMPLT 31 R(g45rspd) _resspdiff pdiff_conn(PLUS) pdiff_conn(MINUS) nwell_conn(B)
*.DEVTMPLT 32 R(g45rnspd) _resnspdiff pdiff_conn(PLUS) pdiff_conn(MINUS) nwell_conn(B)
*.DEVTMPLT 33 R(g45rspp) _ressppoly poly_conn(PLUS) poly_conn(MINUS) psubstrate(B)
*.DEVTMPLT 34 R(g45rspp) _ressppoly_nw poly_conn(PLUS) poly_conn(MINUS) nwell_conn(B)
*.DEVTMPLT 35 R(g45rnspp) _resnsppoly poly_conn(PLUS) poly_conn(MINUS) psubstrate(B)
*.DEVTMPLT 36 R(g45rnspp) _resnsppoly_nw poly_conn(PLUS) poly_conn(MINUS) nwell_conn(B)
*.DEVTMPLT 37 R(g45rnws) _resnwsti nwell_conn(PLUS) nwell_conn(MINUS) psubstrate(B)
*.DEVTMPLT 38 R(g45rnwo) _resnwoxide nwell_conn(PLUS) nwell_conn(MINUS) psubstrate(B)
*.DEVTMPLT 39 D(g45nd1svt) _ndio psubstrate(PLUS) ndiff_conn(MINUS)
*.DEVTMPLT 40 D(g45nd1lvt) _ndio_lvt psubstrate(PLUS) ndiff_conn(MINUS)
*.DEVTMPLT 41 D(g45nd1hvt) _ndio_hvt psubstrate(PLUS) ndiff_conn(MINUS)
*.DEVTMPLT 42 D(g45nd1nvt) _ndio_nvt psubstrate(PLUS) ndiff_conn(MINUS)
*.DEVTMPLT 43 D(g45nd2svt) _ndio_2v psubstrate(PLUS) ndiff_conn(MINUS)
*.DEVTMPLT 44 D(g45nd2nvt) _ndio_2v_nvt psubstrate(PLUS) ndiff_conn(MINUS)
*.DEVTMPLT 45 D(g45pd1svt) _pdio pdiff_conn(PLUS) nwell_conn(MINUS)
*.DEVTMPLT 46 D(g45pd1lvt) _pdio_lvt pdiff_conn(PLUS) nwell_conn(MINUS)
*.DEVTMPLT 47 D(g45pd1hvt) _pdio_hvt pdiff_conn(PLUS) nwell_conn(MINUS)
*.DEVTMPLT 48 D(g45pd2svt) _pdio_2v pdiff_conn(PLUS) nwell_conn(MINUS)
*.DEVTMPLT 49 Q(g45vpnp2) _vpnp2 psubstrate(C) nwell_conn(B) pdiff_conn(E)
*.DEVTMPLT 50 Q(g45vpnp5) _vpnp5 psubstrate(C) nwell_conn(B) pdiff_conn(E)
*.DEVTMPLT 51 Q(g45vpnp10) _vpnp10 psubstrate(C) nwell_conn(B) pdiff_conn(E)
*.DEVTMPLT 52 Q(g45vnpn2) _npn2 nwell_conn(C) psubstrate(B) npn_emit(E)
*.DEVTMPLT 53 Q(g45vnpn5) _npn5 nwell_conn(C) psubstrate(B) npn_emit(E)
*.DEVTMPLT 54 Q(g45vnpn10) _npn10 nwell_conn(C) psubstrate(B) npn_emit(E)
*.DEVTMPLT 55 C(g45cmim) _mimcap CapMetal(PLUS) metal10_conn(MINUS) psubstrate(B)
*.DEVTMPLT 56 L(g45inda) _ind_a ind10(PLUS) ind11(MINUS) psubstrate(B)
*.DEVTMPLT 57 L(g45inds) _ind_s ind11(PLUS) ind11(MINUS) psubstrate(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: L                                               *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt L PLUS MINUS B
.ends L

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1_PO_CDNS_1                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1_PO_CDNS_1 1
** N=1 EP=1 FDC=0
.ends M1_PO_CDNS_1

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1_PIMP_CDNS_3                                  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1_PIMP_CDNS_3 1
** N=1 EP=1 FDC=0
.ends M1_PIMP_CDNS_3

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos4_CDNS_5                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos4_CDNS_5 1 2 3 4
** N=4 EP=4 FDC=1
M0 1 3 2 2 g45p1svt L=1e-06 W=4e-06 AD=1e-11 AS=1.2e-11 PD=1.3e-05 PS=1.4e-05 fw=4e-06 sa=2e-06 sb=2e-06 sca=1.4 scb=1.24841e-05 scc=2.70526e-10 $X=7000 $Y=2000 $dt=8
.ends pmos4_CDNS_5

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos4_CDNS_6                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos4_CDNS_6 1 2 3 4
*.DEVICECLIMB
** N=4 EP=4 FDC=0
.ends nmos4_CDNS_6

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: DFFX1                                           *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt DFFX1 CK D Q QN VDD VSS
** N=19 EP=6 FDC=28
X0 1 M1_PO_CDNS_1 $T=12600 18200 0 0 $X=10600 $Y=16200
X1 2 M1_PO_CDNS_1 $T=46400 20000 0 0 $X=44400 $Y=18000
X2 CK M1_PO_CDNS_1 $T=54400 28000 0 0 $X=52400 $Y=26000
X3 4 M1_PO_CDNS_1 $T=77400 26000 0 0 $X=75400 $Y=24000
X4 2 M1_PO_CDNS_1 $T=82400 17800 0 0 $X=80400 $Y=15800
X5 5 M1_PO_CDNS_1 $T=102400 23600 0 0 $X=100400 $Y=21600
X6 6 M1_PO_CDNS_1 $T=107600 42000 0 0 $X=105600 $Y=40000
X7 5 M1_PO_CDNS_1 $T=113600 19600 0 0 $X=111600 $Y=17600
X8 7 M1_PO_CDNS_1 $T=133400 27400 0 0 $X=131400 $Y=25400
X9 8 M1_PO_CDNS_1 $T=137400 19200 0 0 $X=135400 $Y=17200
X10 6 M1_PO_CDNS_1 $T=145400 42000 0 0 $X=143400 $Y=40000
X11 6 M1_PO_CDNS_1 $T=157400 19400 0 0 $X=155400 $Y=17400
X12 D M1_PO_CDNS_1 $T=170600 41600 0 0 $X=168600 $Y=39600
X13 6 M1_PO_CDNS_1 $T=180000 21800 0 0 $X=178000 $Y=19800
X14 5 M1_PO_CDNS_1 $T=196000 22000 0 0 $X=194000 $Y=20000
X15 VDD M1_PIMP_CDNS_3 $T=46400 50000 0 0 $X=43400 $Y=47000
X16 VDD M1_PIMP_CDNS_3 $T=78400 50000 0 0 $X=75400 $Y=47000
X17 VDD M1_PIMP_CDNS_3 $T=133400 50000 0 0 $X=130400 $Y=47000
X18 VDD M1_PIMP_CDNS_3 $T=179400 50000 0 0 $X=176400 $Y=47000
X19 QN VDD 1 VSS pmos4_CDNS_5 $T=18400 30200 1 180 $X=2400 $Y=30200
X20 1 VDD 2 VSS pmos4_CDNS_5 $T=10400 30200 0 0 $X=10400 $Y=30200
X21 QN VSS 1 VSS nmos4_CDNS_6 $T=18400 5800 1 180 $X=2400 $Y=5800
X22 1 VSS 2 VSS nmos4_CDNS_6 $T=10400 5800 0 0 $X=10400 $Y=5800
X23 Q VSS 2 VSS nmos4_CDNS_6 $T=50400 5800 1 180 $X=34400 $Y=5800
X24 2 VSS 4 VSS nmos4_CDNS_6 $T=82400 5800 1 180 $X=66400 $Y=5800
X25 8 VSS 7 VSS nmos4_CDNS_6 $T=137400 7200 1 180 $X=121400 $Y=7200
X26 14 VSS 8 VSS nmos4_CDNS_6 $T=129400 7200 0 0 $X=129400 $Y=7200
X27 7 14 5 VSS nmos4_CDNS_6 $T=137400 7200 0 0 $X=137400 $Y=7200
X28 7 15 6 VSS nmos4_CDNS_6 $T=161400 7200 1 180 $X=145400 $Y=7200
X29 15 VSS D VSS nmos4_CDNS_6 $T=169400 7200 1 180 $X=153400 $Y=7200
X30 5 VSS 6 VSS nmos4_CDNS_6 $T=178000 7200 0 0 $X=178000 $Y=7200
M0 VSS 1 QN VSS g45n1svt L=1e-06 W=2e-06 AD=6e-12 AS=5e-12 PD=1e-05 PS=9e-06 fw=2e-06 sa=2e-06 sb=2e-06 sca=1.66667 scb=1.49811e-05 scc=3.24632e-10 $X=9400 $Y=7800 $dt=0
M1 1 2 VSS VSS g45n1svt L=1e-06 W=2e-06 AD=5e-12 AS=6e-12 PD=9e-06 PS=1e-05 fw=2e-06 sa=2e-06 sb=2e-06 sca=1.66667 scb=1.49811e-05 scc=3.24632e-10 $X=17400 $Y=7800 $dt=0
M2 VSS 2 Q VSS g45n1svt L=1e-06 W=2e-06 AD=2.461e-11 AS=5e-12 PD=2.84e-05 PS=9e-06 fw=2e-06 sa=2e-06 sb=2e-06 sca=1.66667 scb=1.49811e-05 scc=3.24632e-10 $X=41400 $Y=7800 $dt=0
M3 6 CK VSS VSS g45n1svt L=1e-06 W=2e-06 AD=5e-12 AS=2.461e-11 PD=9e-06 PS=2.84e-05 fw=2e-06 sa=2e-06 sb=2e-06 sca=1.66667 scb=1.49811e-05 scc=3.24632e-10 $X=57400 $Y=18000 $dt=0
M4 VSS 4 2 VSS g45n1svt L=1e-06 W=2e-06 AD=6e-12 AS=5e-12 PD=1e-05 PS=9e-06 fw=2e-06 sa=2e-06 sb=2e-06 sca=1.66667 scb=1.49811e-05 scc=3.24632e-10 $X=73400 $Y=7800 $dt=0
M5 19 2 VSS VSS g45n1svt L=1e-06 W=2e-06 AD=6e-12 AS=6e-12 PD=1e-05 PS=1e-05 fw=2e-06 sa=2e-06 sb=2e-06 sca=1.66667 scb=1.49811e-05 scc=3.24632e-10 $X=81400 $Y=7800 $dt=0
M6 4 6 19 VSS g45n1svt L=1e-06 W=2e-06 AD=5e-12 AS=6e-12 PD=9e-06 PS=1e-05 fw=2e-06 sa=2e-06 sb=2e-06 sca=1.66667 scb=1.49811e-05 scc=3.24632e-10 $X=89400 $Y=7800 $dt=0
M7 8 5 4 VSS g45n1svt L=1e-06 W=2e-06 AD=1.48e-11 AS=5e-12 PD=1.88e-05 PS=9e-06 fw=2e-06 sa=2e-06 sb=2e-06 sca=1.66667 scb=1.49811e-05 scc=3.24632e-10 $X=111600 $Y=9200 $dt=0
M8 VSS 7 8 VSS g45n1svt L=1e-06 W=2e-06 AD=6e-12 AS=1.48e-11 PD=1e-05 PS=1.88e-05 fw=2e-06 sa=2e-06 sb=2e-06 sca=1.66667 scb=1.49811e-05 scc=3.24632e-10 $X=128400 $Y=9200 $dt=0
M9 14 8 VSS VSS g45n1svt L=1e-06 W=2e-06 AD=6e-12 AS=6e-12 PD=1e-05 PS=1e-05 fw=2e-06 sa=2e-06 sb=2e-06 sca=1.66667 scb=1.49811e-05 scc=3.24632e-10 $X=136400 $Y=9200 $dt=0
M10 7 5 14 VSS g45n1svt L=1e-06 W=2e-06 AD=6e-12 AS=6e-12 PD=1e-05 PS=1e-05 fw=2e-06 sa=2e-06 sb=2e-06 sca=1.66667 scb=1.49811e-05 scc=3.24632e-10 $X=144400 $Y=9200 $dt=0
M11 15 6 7 VSS g45n1svt L=1e-06 W=2e-06 AD=6e-12 AS=6e-12 PD=1e-05 PS=1e-05 fw=2e-06 sa=2e-06 sb=2e-06 sca=1.66667 scb=1.49811e-05 scc=3.24632e-10 $X=152400 $Y=9200 $dt=0
M12 VSS D 15 VSS g45n1svt L=1e-06 W=2e-06 AD=5e-12 AS=6e-12 PD=9e-06 PS=1e-05 fw=2e-06 sa=2e-06 sb=2e-06 sca=1.66667 scb=1.49811e-05 scc=3.24632e-10 $X=160400 $Y=9200 $dt=0
M13 5 6 VSS VSS g45n1svt L=1e-06 W=2e-06 AD=5e-12 AS=5e-12 PD=9e-06 PS=9e-06 fw=2e-06 sa=2e-06 sb=2e-06 sca=1.66667 scb=1.49811e-05 scc=3.24632e-10 $X=185000 $Y=9200 $dt=0
M14 VDD 2 Q VDD g45p1svt L=1e-06 W=4e-06 AD=3.98e-11 AS=1e-11 PD=3.38e-05 PS=1.3e-05 fw=4e-06 sa=2e-06 sb=2e-06 sca=1.4 scb=1.24841e-05 scc=2.70526e-10 $X=41400 $Y=32200 $dt=8
M15 6 CK VDD VDD g45p1svt L=1e-06 W=4e-06 AD=1e-11 AS=3.98e-11 PD=1.3e-05 PS=3.38e-05 fw=4e-06 sa=2e-06 sb=2e-06 sca=1.4 scb=1.24841e-05 scc=2.70526e-10 $X=57400 $Y=34000 $dt=8
M16 VDD 4 2 VDD g45p1svt L=1e-06 W=4e-06 AD=2.74e-11 AS=1e-11 PD=2.94e-05 PS=1.3e-05 fw=4e-06 sa=2e-06 sb=2e-06 sca=1.4 scb=1.24841e-05 scc=2.70526e-10 $X=73400 $Y=29600 $dt=8
M17 17 2 VDD VDD g45p1svt L=1e-06 W=4e-06 AD=1.2e-11 AS=2.74e-11 PD=1.4e-05 PS=2.94e-05 fw=4e-06 sa=2e-06 sb=2e-06 sca=1.4 scb=1.24841e-05 scc=2.70526e-10 $X=81400 $Y=29600 $dt=8
M18 4 5 17 VDD g45p1svt L=1e-06 W=4e-06 AD=3.04e-11 AS=1.2e-11 PD=2.32e-05 PS=1.4e-05 fw=4e-06 sa=2e-06 sb=2e-06 sca=1.4 scb=1.24841e-05 scc=2.70526e-10 $X=89400 $Y=29600 $dt=8
M19 8 6 4 VDD g45p1svt L=1e-06 W=4e-06 AD=3.96e-11 AS=3.04e-11 PD=2.78e-05 PS=2.32e-05 fw=4e-06 sa=2e-06 sb=2e-06 sca=1.4 scb=1.24841e-05 scc=2.70526e-10 $X=106600 $Y=29600 $dt=8
M20 VDD 7 8 VDD g45p1svt L=1e-06 W=4e-06 AD=2.94e-11 AS=3.96e-11 PD=3.04e-05 PS=2.78e-05 fw=4e-06 sa=2e-06 sb=2e-06 sca=1.4 scb=1.24841e-05 scc=2.70526e-10 $X=128400 $Y=29600 $dt=8
M21 16 8 VDD VDD g45p1svt L=1e-06 W=4e-06 AD=1e-11 AS=2.94e-11 PD=1.3e-05 PS=3.04e-05 fw=4e-06 sa=2e-06 sb=2e-06 sca=1.4 scb=1.24841e-05 scc=2.70526e-10 $X=137400 $Y=29600 $dt=8
M22 7 6 16 VDD g45p1svt L=1e-06 W=4e-06 AD=2.84e-11 AS=1e-11 PD=2.22e-05 PS=1.3e-05 fw=4e-06 sa=2e-06 sb=2e-06 sca=1.4 scb=1.24841e-05 scc=2.70526e-10 $X=144400 $Y=29600 $dt=8
M23 18 5 7 VDD g45p1svt L=1e-06 W=4e-06 AD=1.2e-11 AS=2.84e-11 PD=1.4e-05 PS=2.22e-05 fw=4e-06 sa=2e-06 sb=2e-06 sca=1.4 scb=1.24841e-05 scc=2.70526e-10 $X=160600 $Y=29600 $dt=8
M24 VDD D 18 VDD g45p1svt L=1e-06 W=4e-06 AD=4.32e-11 AS=1.2e-11 PD=3.68e-05 PS=1.4e-05 fw=4e-06 sa=2e-06 sb=2e-06 sca=1.4 scb=1.24841e-05 scc=2.70526e-10 $X=168600 $Y=29600 $dt=8
M25 5 6 VDD VDD g45p1svt L=1e-06 W=4e-06 AD=1.52e-11 AS=4.32e-11 PD=1.56e-05 PS=3.68e-05 fw=4e-06 sa=2e-06 sb=2e-06 sca=1.4 scb=1.24841e-05 scc=2.70526e-10 $X=185000 $Y=29600 $dt=8
.ends DFFX1
